US09061030B2
To a solution of methyl 1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazole-5-carboxylate I-35 (115 mg, 0.368 mmol) in methanol (2 mL) was added hydrazine hydrate (72 μL, 1.5 mmol). The solution was heated to 70° C. for 3.5 h, at which point the solvent was removed in vacuo to give 1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazole-5-carbohydrazide C as a white solid. To the crude solid (17 mg, 0.054 mmol) suspended in ethyl acetate (600 μL) was added acetic formic anhydride (0.03 mL, taken from a 2:1 (molar ratio) of formic acid to acetic anhydride, allowed to age 2 h prior to addition). After stirring for 1.25 h, the solution was diluted with ethyl acetate (50 mL) and water (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The organics were dried over MgSO4, filtered, and the solvent was removed in vacuo to give the crude intermediate D that was carried on without further purification. To the crude solid was added phosphoryl chloride (237 μl, 2.54 mmol) and the solution was heated to 60° C. for 6.5 h. The solution was diluted with ethyl acetate (75 mL) and saturated aqueous sodium bicarbonate (75 mL). The layers were separated, and the aqueous layer was extracted with ethyl acetate (2×50 mL). The organics were washed with brine (50 mL), dried over magnesium sulfate, filtered, and the solvent was removed in vacuo. Purification by silica gel chromatography (20-95% ethyl acetate in hexanes) gave 2-(1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazol-5-yl)-1,3,4-oxadiazole I-42 (7.5 mg, 0.023 mmol, 42% yield for three steps) as a white solid.

reactant | methyl 1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazole-5-carboxylate | FC1=C(CN2N=C(N=C2C(=O)OC)C2=NC=CC=C2)C=CC=C1 | C16H13FN4O2
reactant | hydrazine hydrate | 1.5 mmol, 72 μL | O.NN
solvent | methanol | 2 mL | CO | CH4O
product | 1-(2-fluorobenzyl)-3-(pyridin-2-yl)-1H-1,2,4-triazole-5-carbohydrazide | FC1=C(CN2N=C(N=C2C(=O)NN)C2=NC=CC=C2)C=CC=C1 | C15H13FN6O
